US07691867B2
A solution of N-1H-pyrazol-3-ylacetamide (Liebigs annalen der chemie., 1967, 707, 147; 0.500 g, 4.0 mmol) was stirred in a mixture of nitric acid (d=1.52, 0.2 ml, 4.8 mmol) and sulphuric acid (d=1.83, 2 ml) at 0° C. for 2.5 hours. The mixture was poured onto ice and the resultant precipitate was filtered, washed with water and then a 2:1 mixture of diethyl ether:methanol and then with diethyl ether. The residue was dried in vacuo to give N-(4-nitro-1H-pyrazol-3-yl)acetamide (0.44 g, 65% yield):

reactant | N-1H-pyrazol-3-ylacetamide | 4.0 mmol, 0.500 g | N1N=C(C=C1)NC(C)=O | C5H7N3O
reactant | nitric acid | 4.8 mmol, 0.2 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulphuric acid | 2 ml | S(O)(O)(=O)=O | H2O4S
product | N-(4-nitro-1H-pyrazol-3-yl)acetamide | 0.44 g, 65% yield | [N+](=O)([O-])C=1C(=NNC1)NC(C)=O | C5H6N4O3
